US08258180B2
Prepare 600 grams of solution A as in Example 1 with 9.56% zinc. Add 243 grams of 2-mercaptobenzothiazole with acid value of 327 mg of KOH per gram and melting point of about 180° C. to the solution. Stir and warm the solution to 50° C. for one hour. The pH of this solution is measured at 10.67. Heat the solution to boil off the ammonia and carbon dioxide. The solution boils at about 60° C. to 90° C. When all the ammonia is boiled out the temperature rises to 100° C. and the pH drops to 8.57. Cool the mixture to 25° C. Filter the mixture and dry the white precipitate at 150° C. for 6 hours, and then and mill it to obtain zinc 2-mercaptobenzothiazole (ZMBT), sample No. ZMBT-A, with the following properties:

reactant | zinc | [Zn] | Zn
reactant | 2-mercaptobenzothiazole | 243 grams | SC=1SC2=C(N1)C=CC=C2 | C7H5NS2
reactant | KOH | 327 mg | [OH-].[K+]
reactant | ammonia | N | H3N
reactant | carbon dioxide | C(=O)=O | CO2
product | zinc 2-mercaptobenzothiazole | SC=1SC2=C(N1)C=CC=C2.[Zn] | InChI=1S/C7H5NS2.Zn/c9-7-8-5-3-1-2-4-6(5)10-7;/h1-4H,(H,8,9);
